US06613766B1
c) 5-Methylisoxazole-3-carboxylic Acid Hydrazide
To a solution of ethyl 5-methylisoxazole-3-carboxylate (3.0 g, 19 mmol) in methanol (30 ml) at 0° C. under nitrogen was added hydrazine hydrate (3.04 g, 95 mmol) over 0.3 h. The reaction was stirred at 0° C. for 0.25 h and at RT for 1 h. The white precipitate was filtered off and washed with methanol to give the title-compound (0.78 g, 29%) as a white solid, 1H NMR (250 MHz, CDCl3) δ 2.41 (3H, d, J=0.8 Hz, CH3), 4.07 (2H, br s, NH2), 6.44 (1H, q, J=0.8 Hz, Ar—H), 7.99 (1H, br s, N—H); MS (ES+) m/e 142 [MH]+.

reactant | ethyl 5-methylisoxazole-3-carboxylate | 19 mmol, 3.0 g | CC1=CC(=NO1)C(=O)OCC | C7H9NO3
reactant | hydrazine hydrate | 95 mmol, 3.04 g | O.NN
solvent | methanol | 30 ml | CO | CH4O
product | 5-Methylisoxazole-3-carboxylic Acid Hydrazide | 0.78 g, 29% | CC1=CC(=NO1)C(=O)NN | C5H7N3O2
